US05476954
7.1 g of sodium hydrogen carbonate are added to a stirred solution of 16 g of ethyl (2R,3S)-3-amino-2-hydroxy-3-phenylpropionate in 160 cm3 of dichloromethane, and a solution of 22.1 g of di-tert-butyl dicarbonate in 40 cm3 of dichloromethane is then introduced in the course of 40 minutes. The reaction medium is stirred for 3.25 hours at a temperature in the region of 20° C. and 150 cm3 of water are then added. The organic phase is separated off after settling has taken place, the aqueous phase is extracted with 50 cm3 of dichloromethane and the combined organic phases are then dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 30° C. The residue obtained is ground in 50 cm3 of isopropyl ether; the solid obtained is filtered off and then dried under reduced pressure (2.7 kPa) at a temperature in the region of 20° C. 11.9 g of ethyl (2R,3S)-3-tert-butoxycarbonylamino-2-hydroxy-3-phenylpropionate are thereby obtained in the form of a white powder, melting point 124° C., the rotatory power of which is [α]D20 =6.3° (c=1; CHCl3).

reactant | sodium hydrogen carbonate | 7.1 g | C(O)([O-])=O.[Na+]
reactant | ethyl (2R,3S)-3-amino-2-hydroxy-3-phenylpropionate | 16 g | N[C@H]([C@H](C(=O)OCC)O)C1=CC=CC=C1 | C11H15NO3
reactant | di-tert-butyl dicarbonate | 22.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 150 cm3 | O | H2O
solvent | dichloromethane | 160 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
solvent | isopropyl ether | 50 cm3 | C(C)(C)OC(C)C | C6H14O
product | ethyl (2R,3S)-3-tert-butoxycarbonylamino-2-hydroxy-3-phenylpropionate | 11.9 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](C(=O)OCC)O)C1=CC=CC=C1 | C16H23NO5
